US09254292B2
A 2 L, 3-necked round bottomed flask equipped with an overhead stirrer and a N2 inlet was charged with a solution of oxalyl chloride (130 mL, 0.26 mol) in dichloromethane (250 mL). The solution was cooled to −78° C., and a solution of DMSO (20 mL, 0.28 mol) in dichloromethane (30 mL) was added dropwise. After 30 minutes, a solution of (S)—N-Boc-prolinol, Int-7a (40 g, 0.20 mol) in dichloromethane (200 mL) was added dropwise. After 30 minutes, triethylamine (140 mL, 1.00 mol) was added to the solution, and the flask was transferred to an ice/water bath and allowed to stir for another 30 minutes. The reaction mixture was diluted with dichloromethane (200 mL) and washed successively with H2O, 1M HCl, saturated NaHCO3, and brine. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to provide crude (S)-2-formyl-pyrrolidine-1-carboxylic acid tort-butyl ester, Int-7b (40 g) as oil, which was used without further purification.

reactant | oxalyl chloride | 0.26 mol, 130 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.28 mol, 20 mL | CS(=O)C | C2H6OS
reactant | (S)—N-Boc-prolinol | C(=O)(OC(C)(C)C)N1[C@H](CO)CCC1 | C10H19NO3
reactant | triethylamine | 1.00 mol, 140 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (S)-2-formyl-pyrrolidine-1-carboxylic acid | C(=O)[C@H]1N(CCC1)C(=O)O | C6H9NO3
